US06228868B1
7-methyl-5-indolyl trifluoromethanesulfonate
A solution of 3-methyl-4-nitrophenyl trifluoromethanesulfonate (8.96 g, 31.4 mmol) in THF (200 mL) at 0° C. was treated dropwise with 1M allylmagnesium bromide in THF (110 mL 110 mmol), stirred for 2 hours, transferred into saturated NH4Cl (200 mL), and extracted with ethyl acetate (200 mL). The extract was dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography with 9:1 hexanes/ethyl acetate to provide 3.19 g of the desired product.

reactant | 3-methyl-4-nitrophenyl trifluoromethanesulfonate | 31.4 mmol, 8.96 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)[N+](=O)[O-])C)(F)F | C8H6F3NO5S
reactant | allylmagnesium bromide | 1M | C(C=C)[Mg]Br
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 110 mmol, 110 mL | C1CCOC1 | C4H8O
product | 7-methyl-5-indolyl trifluoromethanesulfonate | 3.19 g | FC(S(=O)(=O)OC=1C=C2C=CNC2=C(C1)C)(F)F | C10H8F3NO3S
